US04452788
A mixture of 4-(1,3-diethyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)benzenesulfonic acid (10.0 g, 0.0274 moles) and N,N-dimethylformamide (300 ml) is cooled to 0° C. and treated with thionyl chloride (6.5 g, 0.055 moles). When the addition is complete, the reaction mixture is permitted to warm to ambient temperature and stirred vigorously until a thick slurry results. To this slurry is added thiomorpholine (14.2 g, 0.137 moles) in one portion. The resulting mixture is stirred one hour, poured into three liters of water, and filtered. The solids thus obtained are tritruated with ethanol and dried at 48° in a vacuum oven to yield 11.9 grams of 4-[[4-(1,3-diethyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)phenyl]sulfonyl]thiomorpholine, mp 340°-350° C.(d).

reactant | 4-(1,3-diethyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)benzenesulfonic acid | 0.0274 moles, 10.0 g | C(C)N1C(N(C=2N=C(NC2C1=O)C1=CC=C(C=C1)S(=O)(=O)O)CC)=O | C15H16N4O5S
reactant | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 0.055 moles, 6.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | thiomorpholine | 0.137 moles, 14.2 g | N1CCSCC1 | C4H9NS
solvent | ethanol | C(C)O | C2H6O
solvent | water | three liters | O | H2O
product | 4-[[4-(1,3-diethyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)phenyl]sulfonyl]thiomorpholine | 11.9 grams | C(C)N1C(N(C=2N=C(NC2C1=O)C1=CC=C(C=C1)S(=O)(=O)N1CCSCC1)CC)=O | C19H23N5O4S2
